US08664233B2
15.4 g (56.6 mmol) 3-amino-6-bromo-4-fluoro-1H-indole-2-carboxylic acid amide was suspended in 300 ml dioxan and after the addition of 7.5 ml (61.8 mmol) diphosgene the suspension was refluxed for 2 h. Having cooled down to room temperature, 20 ml water was carefully added and the precipitate was subsequently sucked off. 12.5 g (74%) 7-bromo-9-fluoro-1H-pyrimido[5,4-b]indole-2,4(3H,5H)-dione was obtained. ESI-MS [m/z]: 296, 298 [M−H]−

reactant | 3-amino-6-bromo-4-fluoro-1H-indole-2-carboxylic acid amide | 56.6 mmol, 15.4 g | NC1=C(NC2=CC(=CC(=C12)F)Br)C(=O)N | C9H7BrFN3O
reactant | diphosgene | 61.8 mmol, 7.5 ml | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | water | 20 ml | O | H2O
solvent | dioxan | 300 ml | O1CCOCC1 | C4H8O2
product | 7-bromo-9-fluoro-1H-pyrimido[5,4-b]indole-2,4(3H,5H)-dione | 12.5 g, 74% | BrC=1C=C(C=2C3=C(NC2C1)C(NC(N3)=O)=O)F | C10H5BrFN3O2
